US07056918B2
To a stirred, hot solution of 2-{2-[5-(1,3-Dimethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-4-m-tolyl-imidazol-1-yl]-ethyl}-isoindole-1,3-dione (90 mg, 0.18 mmoles) in 5 mL ethanol was added aqueous 35 wt % hydrazine (50 pL). The resulting mixture was heated at reflux for 4 hours. The mixture (white precipitate visible) was cooled to 23° C. and concentrated in vacuo. The residue was taken up in 3 N HCl and methanol and extracted with ethyl acetate. The ethyl acetate extract was washed with 3 N HCl. The combined acidic aqueous layers were extracted with ethyl acetate (2 times). The acidic aqueous layer was made basic (pH 10–11) with Na2CO3 and extracted with ethyl acetate (3 times). These ethyl acetate extracts were combined and dried (Na2SO4), filtered, and the filtrate was concentrated to give 48 mg of 5-[3-(2-Amino-ethyl)-5-m-tolyl-3H-imidazol-4-yl]-1,3-dimethyl-1,3-dihydro-benzoimidazol-2-one as an off white film/solid. MS (APCI) m/z 362 (M+1).

reactant | 2-{2-[5-(1,3-Dimethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-4-m-tolyl-imidazol-1-yl]-ethyl}-isoindole-1,3-dione | 0.18 mmoles, 90 mg | CN1C(N(C2=C1C=CC(=C2)C2=C(N=CN2CCN2C(C1=CC=CC=C1C2=O)=O)C=2C=C(C=CC2)C)C)=O | C29H25N5O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-[3-(2-Amino-ethyl)-5-m-tolyl-3H-imidazol-4-yl]-1,3-dimethyl-1,3-dihydro-benzoimidazol-2-one | 48 mg | NCCN1C=NC(=C1C1=CC2=C(N(C(N2C)=O)C)C=C1)C=1C=C(C=CC1)C | C21H23N5O
